US05124478
5-Carboxyethyl-2,4-dimethoxy-4'-methoxybenzophenone oxime
37 g of 3-[2,4-dimethoxy-5-(4-methoxybenzoyl)phenyl]propionic acid, 22.4 g of hydroxylamine hydrochloride and 21 g of sodium acetate (anhydrous) are added to 300 ml of absolute ethanol, and the mixture is refluxed with exclusion of moisture for 24 hours. Insolubles are removed by suction, the filtrate is concentrated, and water is added to the residue. The pH is then adjusted to 2 with 1N hydrochloric acid, and the mixture is extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate and concentrated. The residue is recrystallized from ethyl acetate/hexane.

reactant | 3-[2,4-dimethoxy-5-(4-methoxybenzoyl)phenyl]propionic acid | 37 g | COC1=C(C=C(C(=C1)OC)C(C1=CC=C(C=C1)OC)=O)CCC(=O)O | C19H20O6
reactant | hydroxylamine hydrochloride | 22.4 g | Cl.NO
reactant | sodium acetate | 21 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-Carboxyethyl-2,4-dimethoxy-4'-methoxybenzophenone oxime | C(=O)(O)CCC=1C(=CC(=C(C(C2=CC=C(C=C2)OC)=NO)C1)OC)OC | C19H21NO6
